US07671080B2
Sodium hydride (60% dispersion in mineral oil, 0.154 g, 3.85 mmol) was added to a solution of 5-chloro-1H indole-2-carboxylic acid ethyl ester (0.70 g, 3.14 mmol) in dimethyl formamide (8 ml) with stirring under nitrogen, followed after 1 h by 2-bromomethyl-4-tert-butyl-1-methoxybenzene (1.00 g, 3.89 mmol). After stirring for 17 h, the reaction was diluted with water (15 ml), extracted into ethyl acetate (2×30 ml), washed with water (2×30 ml), dried with magnesium sulfate and evaporated to dryness under reduced pressure. Purification was achieved by chromatography on silica using DCM as eluent to yield 1-(5-tert-butyl-2-methoxybenzyl)-5-chloro-1H-indole-2-carboxylic acid ethyl ester as an off-white solid (1.18 g, 2.95 mmol, 94%).

reactant | Sodium hydride | 3.85 mmol, 0.154 g | [H-].[Na+]
reactant | 5-chloro-1H indole-2-carboxylic acid ethyl ester | 3.14 mmol, 0.70 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)Cl | C11H10ClNO2
reactant | 2-bromomethyl-4-tert-butyl-1-methoxybenzene | 3.89 mmol, 1.00 g | BrCC1=C(C=CC(=C1)C(C)(C)C)OC | C12H17BrO
solvent | dimethyl formamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
product | 1-(5-tert-butyl-2-methoxybenzyl)-5-chloro-1H-indole-2-carboxylic acid ethyl ester | 2.95 mmol, 1.18 g, 94% | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)Cl)CC1=C(C=CC(=C1)C(C)(C)C)OC | C23H26ClNO3
